US08445501B2
trans-[4-(2-Methoxy-ethylcarbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester
Starting from trans-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid and 2-methoxy-ethylamine the title compound is obtained as colorless solid.

reactant | trans-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | trans-[4-(2-Methoxy-ethylcarbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(NCCOC)=O)=O | C15H28N2O4
